US09062075B2
Synthesis of (E)-tert-butyl 2-oxo-6-(3-oxo-3-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-1-en-1-yl)-2,4-dihydro-1H-spiro[[1,8]naphthyridine-3,4′-piperidine]-1′-carboxylate (Compound 1)
To a stirred solution of 1-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-2-en-1-one (Intermediate-4) (350 mg, 1.50 mmol) and tert-butyl 6-bromo-2-oxo-2,4-dihydro-1H-spiro[[1,8]naphthyridine-3,4′-piperidine]-1′-carboxylate (Intermediate-6) (500 mg, 1.20 mmol) in DMF/propionitrile (4 mL/16 mL) was added DIPEA (0.55 mL, 3.16 mmol) at 20-35° C. and the mixture was degassed with N2 for 10 minutes. Then Pd(OAc)2 (28 mg, 0.12 mmol) and P(o-tolyl)3 (77 mg, 0.25 mmol) were added, again degassed with N2 for another 10 minutes and heated at 110° C. for 16 h. The reaction mixture was cooled to 20-35° C. and filtered through Celite®. The filtrate was rotary evaporated under vacuum to get residue which was purified by column chromatography using mixture of 3% MeOH/DCM as an eluent to get the desired compound as a light yellow solid (150 mg, 22%); 1H NMR (400 MHz, DMSO-d6) δ 10.73 (s, 1H), 8.37 (d, J=1.5 Hz, 1H), 8.09 (s, 1H), 7.71 (d, J=3.4 Hz, 1H), 7.61 (d, J=3.5 Hz, 1H), 7.45 (d, J=15.1 Hz, 1H), 7.28-7.16 (m, 1H), 5.68-5.64 (m, 1H), 4.24-4.21 (m, 1H), 4.08-4.03 (m, 1H), 3.75 (s, 2H), 3.64-3.61 (m, 1H), 3.57-3.52 (m, 3H), 3.27-3.21 (m, 2H), 2.94 (s, 2H), 2.18-2.13 (m, 2H), 1.80-1.68 (m, 2H), 1.39 (s, 9H), 1.40-1.31 (m, 2H); ES-MS: 548.2 (M−1)+.

reactant | 1-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-2-en-1-one | 1.50 mmol, 350 mg | S1C(=NC=C1)CC1=CCN(CC1)C(C=C)=O | C12H14N2OS
reactant | tert-butyl 6-bromo-2-oxo-2,4-dihydro-1H-spiro[[1,8]naphthyridine-3,4′-piperidine]-1′-carboxylate | 1.20 mmol, 500 mg | BrC=1C=C2CC3(CCN(CC3)C(=O)OC(C)(C)C)C(NC2=NC1)=O | C17H22BrN3O3
reactant | DIPEA | 3.16 mmol, 0.55 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | P(o-tolyl)3 | 0.25 mmol, 77 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
solvent | DMF propionitrile | 4 mL | CN(C)C=O.C(CC)#N
catalyst | Pd(OAc)2 | 0.12 mmol, 28 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-tert-butyl 2-oxo-6-(3-oxo-3-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-1-en-1-yl)-2,4-dihydro-1H-spiro[[1,8]naphthyridine-3,4′-piperidine]-1′-carboxylate | 150 mg, 22% | O=C1NC2=NC=C(C=C2CC12CCN(CC2)C(=O)OC(C)(C)C)\C=C\C(N2CC=C(CC2)CC=2SC=CN2)=O | C29H35N5O4S
